US05576335
A mixture of 3,4-diaminopyridine (1.09 g), heptyl isocyanate (1.41 g) and 4-dimethylaminopyridine (0.37 g) was stirred in toluene (10 ml) at 50°-60° C. for 5 hrs. The solvent was distilled off and the residue was purified by a silica gel column chromatography (chloroform:methanol=4:1) to give 1-(4-amino-3-pyridyl)-3-heptylurea (1.09 g, 37%) and crystals.

reactant | 3,4-diaminopyridine | 1.09 g | NC=1C=NC=CC1N | C5H7N3
reactant | heptyl isocyanate | 1.41 g | C(CCCCCC)N=C=O | C8H15NO
catalyst | 4-dimethylaminopyridine | 0.37 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-amino-3-pyridyl)-3-heptylurea | 1.09 g, 37% | NC1=C(C=NC=C1)NC(=O)NCCCCCCC | C13H22N4O
